Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Palpitations, chest discomfort
 
Major Surgical or Invasive Procedure:
Cardiac catheterization ___
Ablation for atrial flutter ___

 
History of Present Illness:
Previously healthy ___ year old male presenting with 
palpitations,
found to have new atrial flutter.

Per notes and discussion with patient, he is very healthy and
active at baseline, runs ___ miles 3x/week and lifts weights
3x/week without any issues. During the week of ___ he was
in ___, went for a run and did not have a lot of energy. The
next day he was doing some small weights and felt some 
substernal
chest discomfort ___ lasting 30 seconds) and squatted and that
seemed to help - with this he also had some lightheadedness and 
a
racing heart. 

On ___ (around 10 days ago), he took an hour walk 
and
then took a shower and was sweating a lot and felt clammy. He
also had some chest discomfort with snow shoveling several days
ago which is new and unusual for him per wife. He felt like he
might pass out, although he never did. Rushing up the stairs
causes him to feel lightheaded. He also notes that he has a hard
time exhaling with some wheezing until he coughs up some phlegm.
This is different than what has been going on and is
longstanding.

He also notes that for the last several weeks/months, he has a
strange/nagging sensation in his left leg when he is lying down,
such that he has the urge to move his leg which then improves
this sensation. He denies any leg swelling or pain. No history 
of
VTE.

At his PCP appointment he was found to be in atrial flutter with
rates in 130s, hence was referred to the ___ ED for further
management.

In the ED initial vitals were:  
T 96.7 HR 146 RR 16 BP 123/92 SpO2 99% RA
Physical exam was notable for: Breathing comfortably on room 
air.
Lungs clear to auscultation bilaterally. Tachycardic. Radial
pulses intact and symmetric.

EKG per my read: Atrial flutter with predominantly 2:1 block
(some 3:1 block as well), rate in 130s, LAD with LAFB, early
transition, no acute ST/T wave changes. 

Labs/studies notable for:  
WBC 6.3 Hgb 13.7 Plt 179
143 | 104 | 16
---------------
4.1 | 26 | 1.1
Troponin T < 0.01
Mg 2.1
INR 1.1 PTT 27.7
D-dimer < 215
CXR: No acute cardiopulmonary abnormality.

Patient was given:  LR x 1L, heparin gtt

His case was discussed with ___ cardiology with plan for
anticoagulation and possible TEE/cardioversion. He never 
received
any rate controlling agents in the ED per medication
administration documentation (although was ordered for diltiazem
15 mg once at 16:40). 

REVIEW OF SYSTEMS:  
Positive per HPI.  
Cardiac review of systems is notable for +chest pain, dyspnea on
exertion, palpitations, lightheadedness. He denies: paroxysmal
nocturnal dyspnea, orthopnea, ankle edema.

On further review of systems, denies fevers or chills. Denies 
any
prior history of stroke, TIA, deep venous thrombosis, pulmonary
embolism, bleeding at the time of surgery, myalgias, joint 
pains,
cough, hemoptysis, black stools or red stools. Denies exertional
buttock or calf pain. All of the other review of systems were
negative.  

 
Past Medical History:
1. CARDIAC RISK FACTORS: None
2. CARDIAC HISTORY: 
- New diagnosis of atrial flutter 
3. OTHER PAST MEDICAL HISTORY  

 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or
sudden cardiac death.  

 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
===============================
GENERAL: Well developed, well nourished Caucasian male in NAD.
Oriented x3. Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa.
No xanthelasma. 
NECK: Supple. JVP flat.
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. Regular rate and rhythm. Normal S1, S2. No murmurs, rubs,
or gallops. no thrills or lifts.  
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric. 

DISCHARGE PHYSICAL EXAM:
========================
___ 1105 Temp: 97.9 PO BP: 114/67 L Lying HR: 79 RR: 16 O2
sat: 99% O2 delivery: Ra 
Fluid Balance (last updated ___ @ 605) 
  Last 8 hours  Total cumulative -155ml
    IN: Total 120ml, PO Amt 120ml
    OUT:  Total 275ml, Urine Amt 275ml
  Last 24 hours  Total cumulative -10ml
    IN: Total 740ml, PO Amt 240ml, IV Amt Infused 500ml
    OUT:  Total 750ml, Urine Amt 750ml  
GENERAL: White middle-aged man, appears younger than stated age. 

He is sitting upright in bed eating breakfast.  Pleasant and
cooperative, in NAD
HEENT: MMM
NECK: Supple. JVP flat while sitting up at 90 degrees at 
bedside.
CARDIAC: Irregular rhythm at normal rate, normal S1/S2, no m/g/r
LUNGS: CTAB
ABDOMEN: Soft, non-tender, non-distended.
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  R radial access site covered with clean dry
gauze.  +2 R radial pulse, +2 ulnar pulse on that side.
 
Pertinent Results:
ADMISSION LABS:
___ 02:38PM BLOOD WBC-6.3 RBC-4.26* Hgb-13.7 Hct-41.4 
MCV-97 MCH-32.2* MCHC-33.1 RDW-11.8 RDWSD-42.0 Plt ___
___ 02:38PM BLOOD Neuts-63.7 ___ Monos-8.4 Eos-0.8* 
Baso-0.9 Im ___ AbsNeut-4.04 AbsLymp-1.64 AbsMono-0.53 
AbsEos-0.05 AbsBaso-0.06
___ 02:38PM BLOOD Plt ___
___ 02:38PM BLOOD ___ PTT-27.7 ___
___ 02:38PM BLOOD Glucose-86 UreaN-16 Creat-1.1 Na-143 
K-4.1 Cl-104 HCO3-26 AnGap-13
___ 02:38PM BLOOD Calcium-9.5 Phos-3.9 Mg-2.1
___ 02:38PM BLOOD cTropnT-<0.01
___ 09:38PM BLOOD CK-MB-2 cTropnT-<0.01

TTE:
Suboptimal image quality. Normal left ventricular cavity size 
with mild to
moderate left ventricular global hypokinesis. Mild right 
ventricular dilation with mild global hypokinesis. Mildly 
dilated ascending aorta.

CATH:
• Normal left and right heart filling pressures.
• No angiographically apparent coronary artery disease.

DISCHARGE LABS:
___ 06:07AM BLOOD WBC-6.9 RBC-3.66* Hgb-11.8* Hct-36.5* 
MCV-100* MCH-32.2* MCHC-32.3 RDW-11.9 RDWSD-43.1 Plt ___
___ 06:07AM BLOOD Plt ___
___ 06:07AM BLOOD Glucose-87 UreaN-17 Creat-1.1 Na-142 
K-4.5 Cl-107 HCO3-26 AnGap-9*
 
Brief Hospital Course:
TRANSITIONAL ISSUES:
====================
[ ] He endorsed symptoms of restless leg. An iron panel was 
normal, but this should be explored further in the primary care 
setting.
[ ] There is question of exercise-induced asthma, which his PCP 
is aware of. ___
PFTs can be considered.
[ ] Please check CBC on ___. Please fax results to Pt's PCP 
___, fax ___ and cardiologist ___ 
___, ___. His discharge hemoglobin was 11.8.

[ ] MEDICATION CHANGES:
-Added: Metoprolol succinate 50mg daily, apixaban 5mg BID

# CODE STATUS: Full
# CONTACT: ___ (wife) ___

SUMMARY:
========
Previously healthy ___ year old male presenting with chest pain 
and palpitations, found to have new atrial flutter and HFrEF, 
treated with ablation.

ACTIVE ISSUES:
==============
# Atrial flutter
Received a TTE that showed HFrEF with EF 35-40%. Was started on 
metoprolol tartrate 25mg Q6h for rate control, which adequately 
controlled his rates. Was also started on apixiban in 
preparation for ablation. On ___, received ablation with good 
effect and resolution of aflutter. He had intermittent atrial 
fibrillation and SVT overnight, for which he was discharged on a 
dose of metoprolol succinate 50mg daily. He was anticoagulated 
with 5mg apixaban BID.

# Chest pain
Had a cardiac catheterization to evaluate for CAD which was 
normal. This chest pain was attributed to rapid atrial flutter, 
given no angiographically significant CAD. It resolved with rate 
control as above.

# Borderline macrocytic anemia:
Pt with hemoglobin of 11.8, down from 13.7 on arrival. Possibly 
due to phlebotomy + dilutional effect, as Pt denied 
melenic/bloody stools. He was vitally stable throughout his 
course. He should have a follow-up CBC checked on ___, with 
results faxed to his PCP and cardiologist. This mild anemia may 
contribute to his restless legs as below.

# Question of restless leg syndrome
An iron panel was performed which was normal. He should 
follow-up with his primary care doctor to explore this diagnosis 
further.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Multivitamins W/minerals 1 TAB PO DAILY 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
2.  Metoprolol Succinate XL 50 mg PO DAILY 
RX *metoprolol succinate 50 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
3.  Multivitamins W/minerals 1 TAB PO DAILY  
4.Outpatient Lab Work
D64.9:  Anemia
Please check CBC on ___.  Please fax results to Pt's PCP 
___, fax ___ and cardiologist ___ 
___, ___.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
========
Atrial flutter status post ablation
Heart failure with reduced ejection fraction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___!

WHY DID YOU COME TO THE HOSPITAL?
- You were having chest pain and fast heart rates.

WHAT HAPPENED WHILE YOU WERE HERE?
- We found that your heart was in a rhythm called atrial flutter 
and that because of that rhythm, your heart wasn't squeezing as 
well as it should.
- We did a procedure called a cardiac catheterization where we 
put a catheter into a blood vessel in your wrist to look at the 
blood vessels feeding your heart. That procedure showed that 
your blood vessels look very healthy.
- We also did a procedure called an ablation that slowed down 
your abnormal heart rhythm.

WHAT TO DO WHEN YOU LEAVE?
- Continue to take your new blood thinning medicine called 
apixiban as well as your new medicine called metoprolol that 
helps your heart.
- Follow up with your primary care doctor.
- Follow up with cardiology at the appointment that we will 
set-up for you.

Best wishes,
Your ___ team
 
Followup Instructions:
___